US04399210
50 g of 2,2-dimethylsuccinic acid and 70 ml of acetic anhydride were reacted at 140° C. for 3 hours and, after removing acetic acid and acetic anhydride under reduced pressure, the residue was subjected to vacuum distillation to obtain 37 g of 2,2-dimethylsuccinic anhydride.

reactant | 2,2-dimethylsuccinic acid | 50 g | CC(C(=O)O)(CC(=O)O)C | C6H10O4
solvent | acetic anhydride | 70 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2,2-dimethylsuccinic anhydride | 37 g | CC1(C(=O)OC(C1)=O)C | C6H8O3
